US04287197
A catalyst (3% palladium-on-charcoal; 8 g) is added to a solution of 3-methoxymethyl-5-nitroisoquinoline (78 g) in ethanol (2 liters). The resulting suspension is stirred and hydrogen is bubbled through for 6 hours, whilst keeping the temperature between 20° and 25° C. with the aid of a bath of cold water. The mixture is then filtered and the filtrate is evaporated to dryness at 60° C. under reduced pressure (20 mm Hg; 2.7 kPa). The residue is recrystallised from diisopropyl ether (500 cc). 5-Amino-3-methoxymethylisoquinoline (47 g), m.p. 105° C., is obtained.

reactant | 3-methoxymethyl-5-nitroisoquinoline | 78 g | COCC=1N=CC2=CC=CC(=C2C1)[N+](=O)[O-] | C11H10N2O3
solvent | ethanol | 2 liters | C(C)O | C2H6O
catalyst | palladium-on-charcoal | [Pd] | Pd
product | 5-Amino-3-methoxymethylisoquinoline | 47 g | NC1=C2C=C(N=CC2=CC=C1)COC | C11H12N2O
